US04020079
To a stirred solution of 22.4 parts potassium tert-butoxide in 400 parts by volume of tert-butanol, under a nitrogen atmosphere, is added successively 19.62 parts of 2-(cyclohexylthio)ethylamine hydrochloride and 15.3 parts of 2-bromopropionic acid. The mixture is refluxed for 3 hours, then dried under reduced pressure. The material remaining is dissolved in 200 parts of water containing 10 parts of sodium hydroxide and extracted with ether. The aqueous solution is cooled in an ice bath and acidified to pH 5 with concentrated hydrochloric acid. The solid is collected by filtration and dried under reduced pressure to yield N-[2-(cyclohexylthio)ethyl] alanine.

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 2-(cyclohexylthio)ethylamine hydrochloride | Cl.C1(CCCCC1)SCCN
reactant | 2-bromopropionic acid | BrC(C(=O)O)C | C3H5BrO2
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | N-[2-(cyclohexylthio)ethyl] alanine | C1(CCCCC1)SCCN[C@@H](C)C(=O)O | C11H21NO2S
